US07468449B2
B. 3-(5-Carboxy-2-furanyl)pentan-3-ol
3-(2-Furanyl)pentan-3-ol (3.0 g, 19 mmol) is added to THF (20 mL) under a nitrogen atmosphere. The solution is stirred and cooled to −78° C. Sec-BuLi (1.3 M in cyclohexane, 31 mL, 41 mmol) is added dropwise maintaining the temperature below −55° C. After complete addition, the ice bath is removed and the solution slowly warmed to room temperature where it is stirred for 18 hours. The mixture is cooled to 48° C. and CO2 gas is bubbled through the solution. A thick yellow past results and the temperature is increased to −10° C. Water (50 mL) is added and the solution is stirred at room temperature for 30 minutes. Ethyl acetate is added followed by water and the ph is adjusted to 1 with 1 N HCl. The organic layer is separated and the water layer was discarded. The organic layer is added to 1N NaOH solution and extracted. The pH of the water layer is adjusted to 1 with 1N HCl followed by addition of EtOAc. The organic layer is separated, dried over sodium sulfate, filtered, and evaporated under vacuum to give 2.7 grams of an oil.

reactant | 3-(2-Furanyl)pentan-3-ol | 19 mmol, 3.0 g | O1C(=CC=C1)C(CC)(CC)O | C9H14O2
reactant | THF | 20 mL | C1CCOC1 | C4H8O
reactant | Sec BuLi | 41 mmol, 1.3 M, 31 mL | N[C@@H](C[SeH])C(=O)O.[Li]CCCC
reactant | HCl | 1 N | Cl | ClH
solvent | water | O | H2O
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | Water | 50 mL | O | H2O
product | 3-(5-Carboxy-2-furanyl)pentan-3-ol | 2.7 grams | C(=O)(O)C1=CC=C(O1)C(CC)(CC)O | C10H14O4
